US08076334B2
Using the method described in Example 14 from 2-[3,5-dichloro-4-(1-hydroxymethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile and isonicotinic acid: isonicotinic acid 3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl ester was obtained as a light yellow solid (43.6 mg, 23%); ES+-HRMS m/e calcd for C24H17N7O6Cl2 (M+H+) 570.0690, found 570.0686.

reactant | 2-[3,5-dichloro-4-(1-hydroxymethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile | ClC=1C=C(C=C(C1OC1=NN(C(C(=C1)C(C)C)=O)CO)Cl)N1N=C(C(NC1=O)=O)C#N | C18H14Cl2N6O5
reactant | isonicotinic acid | C(C1=CC=NC=C1)(=O)O | C6H5NO2
product | isonicotinic acid 3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl ester | ClC1=C(OC2=NN(C(C(=C2)C(C)C)=O)COC(C2=CC=NC=C2)=O)C(=CC(=C1)N1N=C(C(NC1=O)=O)C#N)Cl | C24H17Cl2N7O6
